US09034880B2
Preparation of 8-Isopropyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 342)
To a solution of 8-Isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.1 g, 0.43 mmol) in N-methyl 2-pyrolidone (0.5 mL) was added powdered potassium hydroxide (0.096 g, 1.72 mmol) and allowed to stir for 10 min at RT. 2-trifluoromethyl-5-vinyl pyridine (0.19 g, 1.1 mmol) was added and stirred for further at 35 deg C. for 3 h. Reaction mixture was diluted with brine (5 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude was purified through column chromatography (5% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as brown oil (0.17 g, 45% yield). Isopropyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.080 g, 0.19 mmol) was dissolved in THF (2.0 mL). A solution of oxalic acid dihydrate (0.017 g, 0.19 mmol) in THF (2 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as white solid (0.045 g, 46% yield).

reactant | 8-Isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.43 mmol, 0.1 g | C(C)(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C15H20N2
reactant | potassium hydroxide | 1.72 mmol, 0.096 g | [OH-].[K+]
reactant | 2-trifluoromethyl-5-vinyl pyridine | 1.1 mmol, 0.19 g | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
solvent | N-methyl 2-pyrolidone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 8-Isopropyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.17 g, 45% yield | C(C)(C)C1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C(F)(F)F)CCN(C3)C | C23H26F3N3
